US07491718B2
5-methoxy-2H-3,1-benzoxazine-2,4(1H)-dione
A solution of NaOH (6.6 g, 165 mmol) in water (300 mL) was treated with 2-amino-6-methoxylbenzoic acid (10 g, 59.9 mmol); cooled to 0° C., treated dropwise with a 20% wt solution of phosgene in toluene (75 mL), stirred overnight at room temperature and filtered. The filter cake provided 10.5 g of the desired product (yield: 91.0%). 1H NMR (DMSO-d6) δ 3.85 (s, 3H), 6.65 (d, 1H), 6.80 (d, 1H), 7.65 (t, 1H), 11.58 (br s, 1H); MS (ESI(−) m/e 192 (M−H)−.

reactant | NaOH | 165 mmol, 6.6 g | [OH-].[Na+]
reactant | 2-amino-6-methoxylbenzoic acid | 59.9 mmol, 10 g | NC1=C(C(=O)O)C(=CC=C1)OC | C8H9NO3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | water | 300 mL | O | H2O
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 5-methoxy-2H-3,1-benzoxazine-2,4(1H)-dione | 10.5 g, yield: 91.0% | COC1=CC=CC2=C1C(OC(N2)=O)=O | C9H7NO4
